US04200313
Following a procedure similar to that described in Example 4 but employing 2.6 g of 2-[4-(dimethylamino)benzoyl]benzoic acid and 2.3 g of methyl 2-anilinobenzoate there was obtained 1.3 g of 3-[4-(dimethylamino)phenyl]-3-{[2-(methoxycarbonyl)phenyl]phenylamino}phthalide, m.p. 92.5°-102° C. A toluene solution of the product contacted with acidic clay developed a yellow-colored image.

reactant | 2-[4-(dimethylamino)benzoyl]benzoic acid | 2.6 g | CN(C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)C | C16H15NO3
reactant | methyl 2-anilinobenzoate | 2.3 g | N(C1=CC=CC=C1)C1=C(C(=O)OC)C=CC=C1 | C14H13NO2
product | 3-[4-(dimethylamino)phenyl]-3-{[2-(methoxycarbonyl)phenyl]phenylamino}phthalide | 1.3 g | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=CC=C1)C1=C(C=CC=C1)C(=O)OC)C | C30H26N2O4
